data/rdb19/train.csv
rxn,smiles,ea
3865,[C:13]([H:14])([H:15])[H:16].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]=[C:4]([H:11])[H:12])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:13]([H:14])([H:15])[H:16],20.854362677724566
2683,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25]([H:37])([H:38])[H:39])([H:29])[H:30])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[H:35])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:31])([H:32])[H:33])([C:24]([H:34])[H:36])[C:25]([H:37])([H:38])[H:39])([H:29])[H:30])([H:26])([H:27])[H:28],26.33337836852297
2129,[C:11]([C:12]([C:13]([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])([H:24])[H:25])([H:21])([H:22])[H:23].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[C:13]([C:12]([C:11]([H:21])([H:22])[H:23])([H:24])[H:25])([H:14])[c:15]1[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]1[H:30])[H:8])([H:6])[H:7],15.065069024742115
342,[C:4]([O:5][C:6](=[C:7]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1][O:2][C:6]([O:5][C:4]([H:8])([H:9])[H:10])([C:7]([H:3])([H:12])[H:13])[H:11],16.097343239060137
5380,[C:17]([C:18]([C:19]([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[O:21][C:22](=[O:23])[C:24]([H:30])([H:31])[H:32])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([C:3]1=[C:4]([H:12])[C:5]([H:13])([H:29])[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],41.7479470486287
3514,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][C:19]1([C:18](=[C:17]([H:25])[H:26])[H:27])[C:20]([H:28])[C:21]([H:29])=[C:22]([H:30])[C:23]([H:31])=[C:24]1[H:32],41.61348964314675
4669,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[O:19][C:18]([C:17]([H:23])([H:24])[H:25])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:11])[H:12])([H:8])([H:9])[H:10],37.72698021662654
4785,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6](=[O:7])[O:8][C:9](=[C:10]([H:15])[H:16])[H:14])([H:11])([H:12])[H:13]>>[C:1]([H:2])([H:3])([H:4])[H:11].[C:5]([C:6](=[O:7])[O:8][C:9](=[C:10]([H:15])[H:16])[H:14])([H:12])[H:13],18.73248572129524
3308,[C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[C:20]([C:17]([C:15]([O:14][C:13]([H:23])([H:24])[H:25])=[O:16])([C:18]([H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])([H:21])[H:22].[C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12],61.135137787438
3394,[C:17]([C:18](=[C:19]([H:26])[H:27])[C:20](=[O:21])[O:22][H:28])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:19]([C:18]([C:17]([H:23])([H:24])[H:25])[C:20](=[O:21])[O:22][H:28])([H:26])[H:27])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],11.972893348778598
2380,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:13]1([H:27])[C:12]([C:10]([C:9]([C:8]([H:18])([H:19])[H:20])([H:21])[H:22])([C:11]([H:24])([H:25])[H:26])[H:23])[C:17]([H:31])=[C:16]([H:30])[C:15]([H:29])=[C:14]1[H:28],42.21823360881535
5536,[C:13]([C:14]([C:15]([H:16])[H:17])([N:18]([C:19](=[O:20])[H:26])[H:25])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[N:18]([C:19](=[O:20])[H:26])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5]([C:6]([H:11])([H:12])[H:24])[H:10])([H:7])([H:8])[H:9],34.44818451872561
